US04222767
A solution of ethanethiol (12.6 parts) in dimethyl formamide (60 parts) was added with stirring under nitrogen over a period of 20 minutes to a mixture of sodium hydride (6.6 parts of 80% dispersion in oil) and dry dimethyl formamide (60 parts) cooled to 0° C. After 10 minutes, a solution of 2,3-dihydro-5-methoxy-3,3-dimethylbenzofuran (18 parts) in dimethyl formamide (40 parts) was added and the mixture boiled under reflux in a nitrogen atmosphere for 3 hours. The mixture was then added to water and the aqueous phase washed with chloroform, acidified with hydrochloric acid and extracted into ether. The ether was evaporated off to yield 2,3-dihydro-3,3-dimethyl-benzofuran-5-ol (5.4 parts) as a brown oil.

reactant | ethanethiol | C(C)S | C2H6S
reactant | sodium hydride | [H-].[Na+]
reactant | 2,3-dihydro-5-methoxy-3,3-dimethylbenzofuran | COC=1C=CC2=C(C(CO2)(C)C)C1 | C11H14O2
reactant | water | O | H2O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 2,3-dihydro-3,3-dimethyl-benzofuran-5-ol | CC1(COC2=C1C=C(C=C2)O)C | C10H12O2
